### PR TITLE
feat(Algebra/Hom): upgrade a `MulHom` to a `MonoidHom` for groups

### PR DESCRIPTION
**Pull request by mcdoll**
This will mainly used to prove `simp` lemmas for unbundled linear maps, see [#mathlib4 > Typeclasses for linear maps](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Typeclasses.20for.20linear.20maps/with/569396614) 

Co-authored-by: Jireh Loreaux <loreaujy@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Hom/Defs.lean [hunk 1]
```diff
@@ -501,6 +501,24 @@ lemma map_comp_zpow [Group G] [DivisionMonoid H] [MonoidHomClass F G H] (f : F)
...
+variable [Group G] [Group H]
+
+/-- Every `MulHom` between groups defines a `MonoidHom`. -/
+@[to_additive /-- Every `AddHom` between additive groups defines a `AddMonoidHom`. -/]
+def MulHom.toMonoidHom (f : G →ₙ* H) : G →* H where
+  toFun := f
+  map_one' := by
+    apply mul_left_cancel (a := f (1 : G))
+    simp [← map_mul]
+  map_mul' := map_mul f
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Hom/Defs.lean:515]: This construction already exists as `mk'` a few lines down the file; at the very least it should be implemented in terms of it.

Comment (mcdoll) [reply Mathlib/Algebra/Group/Hom/Defs.lean:515]: I don't think this is useful at all then
